data/oMe_Silver.jsonl
{"reaction_id": "NG-004_1-C(F)(F)F_2-C1CCCC1_3-C(F)(F)F","name": "Base-catalyzed Aldol condensation","level": "medium","reactants_smiles": ["C(C(F)(F)F)C=O","C(C1CCCC1)(C(F)(F)F)=O"],"products_smiles": ["C(C1CCCC1)(C(F)(F)F)=C(C=O)C(F)(F)F"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(F)(F)F)=C([O-])","rationale": "Acid-base conditions favor deprotonation at the α-position due to resonance stabilization of the resulting enolate by the adjacent carbonyl."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C1CCCC1)(C(F)(F)F)([O-])C(C=O)C(F)(F)F","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of C1CCCC1, whose partial positive charge is enhanced by the electron-withdrawing carbonyl oxygen."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCC1)(C(F)(F)F)(O)C(C=O)C(F)(F)F","rationale": "Protonation of the alkoxide intermediate generates a stable β-hydroxy carbonyl, favored under acidic conditions for subsequent elimination."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCC1)(C(F)(F)F)(O)C=C([O-])C(F)(F)F","rationale": "Deprotonation at the α-position forms an enolate again, enabling conjugation with the β-hydroxy group for elimination."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C1CCCC1)(C(F)(F)F)=C(C=O)C(F)(F)F","rationale": "Elimination of water is driven by formation of the conjugated α,β-unsaturated carbonyl, which is thermodynamically stabilized by extended π-delocalization."}],"description": "Under acidic conditions, the reaction proceeds via enolate formation, nucleophilic attack on the carbonyl of the second reactant, and subsequent dehydration to yield the α,β-unsaturated carbonyl product. Acid catalysis facilitates proton transfers and stabilizes intermediates, driving the condensation forward."}
{"reaction_id": "NR-133_1-c1ccc(-c2ccccc2)cc1_2-c1ccc(Oc2ccccc2)cc1","name": "Lobry-de Bruyn-van Ekenstein Rearrangement","level": "medium","reactants_smiles": ["C(O)(c1ccc(Oc2ccccc2)cc1)C(=O)(c1ccc(-c2ccccc2)cc1)"],"products_smiles": ["C(=O)(c1ccc(Oc2ccccc2)cc1)C(O)(c1ccc(-c2ccccc2)cc1)"],"conditions": "Base or Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(O)(c1ccc(Oc2ccccc2)cc1)=C([O-])(c1ccc(-c2ccccc2)cc1)","rationale": "Base abstracts the α-hydroxy proton, generating an enolate stabilized by resonance with the adjacent carbonyl, facilitating rearrangement."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(O)(c1ccc(Oc2ccccc2)cc1)=C(O)(c1ccc(-c2ccccc2)cc1)","rationale": "Protonation of the enolate oxygen yields the neutral enediol, stabilized by conjugation between hydroxyl and alkene."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([O-])(c1ccc(Oc2ccccc2)cc1)=C(O)(c1ccc(-c2ccccc2)cc1)","rationale": "Deprotonation at the other hydroxyl group forms an enolate at the alternate carbon, enabling tautomerization toward the product carbonyl position."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(c1ccc(Oc2ccccc2)cc1)C(O)(c1ccc(-c2ccccc2)cc1)","rationale": "Protonation of the enolate oxygen regenerates the carbonyl, producing the thermodynamically favored α-hydroxy carbonyl product."}],"description": "Under basic or acidic conditions, the Lobry-de Bruyn-van Ekenstein rearrangement interconverts an α-hydroxy ketone and an α-hydroxy aldehyde via enediol intermediates. Sequential proton transfers enable tautomerization, driven by stabilization of the enolate/enediol forms and the thermodynamic preference for the carbonyl arrangement in the product."}
